US07053089B2
4-Methylbenzyl 4-[(2-pyrimidinylamino)methyl]-1-piperidinecarboxylate
The title compound was prepared as described in EXAMPLE 13, except using 4-methylbenzyl 4-(aminomethyl)-1-piperidinecarboxylate (300 mg, 1.14 mmol), 2-chloropyrimidine (131 mg, 1.14 mmol) as starting materials gave the title compound as a yellow oil.

reactant | 4-methylbenzyl 4-(aminomethyl)-1-piperidinecarboxylate | 1.14 mmol, 300 mg | NCC1CCN(CC1)C(=O)OCC1=CC=C(C=C1)C | C15H22N2O2
reactant | 2-chloropyrimidine | 1.14 mmol, 131 mg | ClC1=NC=CC=N1 | C4H3ClN2
product | 4-Methylbenzyl 4-[(2-pyrimidinylamino)methyl]-1-piperidinecarboxylate | N1=C(N=CC=C1)NCC1CCN(CC1)C(=O)OCC1=CC=C(C=C1)C | C19H24N4O2
